US03975373
a. Preparation of benzaldehyde-helveticoside
1.5 g. helveticoside are dissolved in 20 ml. benzaldehyde diethylacetal and treated with 1.5 g. of a cation exchanger (Lewatit S 100) in the H+-form. The mixture is heated to 55°C while stirring, and the course of the reaction is followed by thin-layer chromatography. After a reaction time of about 4 hours, no more helveticoside can be detected. The ion exchanger is filtered off and the solvent distilled off from the filtrate in a rotating evaporator under vacuum from a water pump. The residue is triturated with petroleum ether. Yield: 950 mg. benzaldehydehelveticoside, melting point: 202-210°C (decomposition)⟦alpha.D20 ] (C = 1, chloroform):+25° IR-bands: Aromatic bands at 3030, 3050, 695 and 755 cm-1. Lactone-carbonyl bands at 1740 and 1775 cm-1, aldehyde carbonyl band at 1719 cm-1, C = C double-bond band at 1618 cm-1. λ max. 207 m μ (in CH3OH).

reactant | helveticoside | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2CC[C@@]3([C@H]4CC[C@@]5([C@H](CC[C@@]5([C@@H]4CC[C@@]3(C2)O)O)C6=CC(=O)OC6)C)C=O)O)O | C29H42O9
reactant | benzaldehyde diethylacetal | C(C)OC(C1=CC=CC=C1)OCC | C11H16O2
product | benzaldehyde helveticoside | C(C1=CC=CC=C1)=O.C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2CC[C@@]3([C@H]4CC[C@@]5([C@H](CC[C@@]5([C@@H]4CC[C@@]3(C2)O)O)C6=CC(=O)OC6)C)C=O)O)O | InChI=1S/C29H42O9.C7H6O/c1-16-25(33)22(31)12-24(37-16)38-18-3-8-27(15-30)20-4-7-26(2)19(17-11-23(32)36-14-17)6-10-29(26,35)21(20)5-9-28(27,34)13-18;8-6-7-4-2-1-3-5-7/h11,15-16,18-22,24-25,31,33-35H,3-10,12-14H2,1-2H3;1-6H/t16-,18+,19-,20+,21-,22+,24+,25-,26-,27+,28+,29+;/m1./s1
